US04319913
Under a static nitrogen atmosphere at 0° C., a solution of n-butyllithium (7.87 g, 0.123 mol) in hexane was added to a solution of tetramethylethylenediamine (14.3 g, 0.123 mol) in 60 ml. of anhydrous cyclohexane with constant stirring. While maintaining the temperature of the reaction at 0° C., a solution of N-isopropylbenzylamine (9 g, 0.06 mol) in 60 ml. of anhydrous cyclohexane was added to the reaction mixture to produce a suspension containing a dilithio compound. This suspension was stirred for 2 hours at 26° C. and then cooled to -40° C. using a solid carbon dioxide-acetone bath. A solution of phenylphosphonic dichloride (12.5 g, 0.064 mol) in 60 ml. of anhydrous cyclohexane was rapidly added to the suspension causing the temperature of the reaction to increase to 10° C. The reaction mixture was stirred for 1.5 hours at 26° C., after which time the reaction mixture was cooled to 0° C. and then quenched with the rapid addition of 12 ml. of acetic acid. After stirring for 15 minutes, the cyclohexane was removed on a rotary evaporator, and the resulting residue was partitioned between methylene chloride and water. The layers were separated and the methylene chloride layer was washed with water, dried over magnesium sulfate and concentrated in vacuo to yield an oil. This oil was distilled at 160° C. and 0.2 torr and the resulting residue was crystallized at 0° C. from diethyl ether and petroleum ether to yield 2-(1-isopropyl)-1-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (4.5 g, 28% yield) having a melting point of 92°-94° C. and the following analysis:

reactant | n-butyllithium | 0.123 mol, 7.87 g | C(CCC)[Li]
reactant | tetramethylethylenediamine | 0.123 mol, 14.3 g | CN(CCN(C)C)C | C6H16N2
reactant | N-isopropylbenzylamine | 0.06 mol, 9 g | C(C)(C)NCC1=CC=CC=C1 | C10H15N
reactant | phenylphosphonic dichloride | 0.064 mol, 12.5 g | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
solvent | hexane | CCCCCC | C6H14
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-(1-isopropyl)-1-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 4.5 g, 28% yield | C(C)(C)N1P(C2=C(C1)C=CC=C2)(C2=CC=CC=C2)=O | C16H18NOP
